US08034811B2
O-(2,6-Dichloro-pyridin-4-ylmethyl)-hydroxylamine hydrochloride
Prepared by a similar procedure as described for preparation 18. Starting materials: N-hydroxyphthalimide and 4-bromomethyl-2,6-dichloropyridin (Maybridge). 1H-NMR (DMSO-d6) δ 11.2 (br, 3H), 7.62 (s, 2H), 5.18 (s, 2H).

reactant | N-hydroxyphthalimide | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | 4-bromomethyl-2,6-dichloropyridin | BrCC1=CC(=NC(=C1)Cl)Cl | C6H4BrCl2N
product | O-(2,6-Dichloro-pyridin-4-ylmethyl)-hydroxylamine hydrochloride | Cl.ClC1=NC(=CC(=C1)CON)Cl | InChI=1S/C6H6Cl2N2O.ClH/c7-5-1-4(3-11-9)2-6(8)10-5;/h1-2H,3,9H2;1H
